US07858640B2
8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-ol
A mixture of 3-amino-4-chlorophenol (1.0 g), 3-(4-methanesulfonylbenzyl)pentane-2,4-dione (0.53 g), methanesulfonic acid (3 drops) and toluene (20 mL) was heated at reflux for 3 hours. The mixture was cooled to room temperature and the solvent removed under reduced pressure. The residue was diluted with ethyl acetate and then washed with water and saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (1:0 to 99:1 by volume) gave title compound as a pale yellow solid, 0.32 g.

reactant | 3-amino-4-chlorophenol | 1.0 g | NC=1C=C(C=CC1Cl)O | C6H6ClNO
reactant | 3-(4-methanesulfonylbenzyl)pentane-2,4-dione | 0.53 g | CS(=O)(=O)C1=CC=C(CC(C(C)=O)C(C)=O)C=C1 | C13H16O4S
catalyst | methanesulfonic acid | 3 drops | CS(=O)(=O)O | CH4O3S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-ol | ClC1=CC=C(C=2C(=C(C(=NC12)C)CC1=CC=C(C=C1)S(=O)(=O)C)C)O | C19H18ClNO3S
